US04293700
A mixture of 22.2 g of bornyl ester of acetoacetic acid 7 g of hexamethylenetetramine, 3.9 g of ammonium acetate and 150 ml of ethyl alcohol is refluxed for 30 minutes. After cooling a yellow substance is precipitated which is then filtered-off and recrystallized from ethanol. There are obtained 12 g (52% of the theoretical value) of bornyl ester of 2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid as a yellow crystalline substance having melting point of 171°-173° C.

reactant | acetoacetic acid | 7 g | C(CC(=O)C)(=O)O | C4H6O3
reactant | hexamethylenetetramine | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | ammonium acetate | 3.9 g | C(C)(=O)[O-].[NH4+]
reactant | ethyl alcohol | 150 ml | C(C)O | C2H6O
product | 2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid | CC=1NC(=C(CC1C(=O)O)C(=O)O)C | C9H11NO4
